US04011225
3-methyl-5,6,7,8-Tetrahydroquinoline-8-carboxamide.
A mixture of methyl-3-methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate (25 g. 0.13 m), formamide (11.6 g., 0.26 m) and sodium methoxide (from 2.99 g., 0.13 m sodium) was heated on a steam bath for 1 hour while bubbling nitrogen through the mixture, to blow off the methyl formate produced in the reaction. The cooled reaction mixture was diluted with 2N HCl and worked up as described in Example 21 to give the title compound in 90% yield.

reactant | methyl-3-methyl-5,6,7,8-tetrahydroquinoline-8-carboxylate | 25 g | COC(=O)C1CCCC=2C=C(C=NC12)C | C12H15NO2
reactant | formamide | 11.6 g | C(=O)N | CH3NO
reactant | sodium methoxide | 2.99 g | C[O-].[Na+]
solvent | HCl | 2N | Cl | ClH
product | 3-methyl-5,6,7,8-Tetrahydroquinoline-8-carboxamide | 90% yield | CC=1C=NC=2C(CCCC2C1)C(=O)N | C11H14N2O
